US07662581B1
To a solution of 4-Bromo-2-nitroaniline (435 mg, 2 mmol) and benzaldehyde (0.204 ml, 2 mmol,) in 4 ml dry dichloromethane at room temperature, was added sodium triacetoxyborohydride (424 mg, 2 mmol). Then acetic acid (120 μl, 2 mmol) was added. The reaction mixture was stirred at room temperature for 8 hours. The solvent was evaporated and the solid was dissolved in ethyl acetate. The organic layer was washed with saturated NaHCO3, dried over MgSO4, filtered, and the solvent was removed in vacuo. The crude material was purified by flash chromatography to yield 276 mg (0.9 mmol, 45%) of benzyl-(4-bromo-2-nitrophenyl)-amine.

reactant | 4-Bromo-2-nitroaniline | 2 mmol, 435 mg | BrC1=CC(=C(N)C=C1)[N+](=O)[O-] | C6H5BrN2O2
reactant | benzaldehyde | 2 mmol, 0.204 ml | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium triacetoxyborohydride | 2 mmol, 424 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 2 mmol, 120 μl | C(C)(=O)O | C2H4O2
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | benzyl-(4-bromo-2-nitrophenyl)-amine | 0.9 mmol, 276 mg, 45% | C(C1=CC=CC=C1)NC1=C(C=C(C=C1)Br)[N+](=O)[O-] | C13H11BrN2O2
